US05273999
Preparation of 2-[(8-Carboxyoctyl)oxy]-6-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid
Using the procedure of example 184, the title compound was prepared in 47% overall yield by alkylation of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one with 2-[(9-methoxy-9-oxononyl)oxy]-6-[6-[(methylsulfonyl)oxy]hexyl]benzenepropanoic acid methyl ester from the preceding example followed by saponification. The diacid product was a colorless solid, mp 63°-65° C., recrystallized from hexane-ethyl acetate.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 2-[(9-methoxy-9-oxononyl)oxy]-6-[6-[(methylsulfonyl)oxy]hexyl]benzenepropanoic acid methyl ester | COC(CCC1=C(C=CC=C1CCCCCCOS(=O)(=O)C)OCCCCCCCCC(=O)OC)=O | C27H44O8S
product | 2-[(8-Carboxyoctyl)oxy]-6-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid | C(=O)(O)CCCCCCCCOC1=C(C(=CC=C1)CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)CCC(=O)O | C36H50O8
